******Microsemi Bidirectional suppressor***********
*$
.subckt 1n6072 n1 n2 
D_D2         N661700 N1 D1N6072 
D_D3         N661700 n2 D1N6072

.MODEL 1N6072 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=811.16E-9
+ BV=242.24
+ IBV=10
+ TT=5.0000E-9
.ends 1N6072
*$

*$
.subckt 1n6071 n1 n2 
D_D2         N661700 N1 D1N6071 
D_D3         N661700 n2 D1N6071

.MODEL D1N6071 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=827.15E-9
+ BV=220.24
+ IBV=10
+ TT=5.0000E-9
.ends 1N6071
*$

*$
.subckt 1N6070 n1 n2 
D_D2         N661700 N1 D1N6070 
D_D3         N661700 n2 D1N6070
.MODEL D1N6070 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=844.48E-9
+ BV=210.24
+ IBV=10
+ TT=5.0000E-9

.ENDS 1N6070
*$
*$
.subckt 1N6069 n1 n2 
D_D2         N661700 N1 D1N6069
D_D3         N661700 n2 D1N6069
.MODEL D1N6069 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=863.37E-9
+ BV=198.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6069
*$

*$
.subckt 1N6068 n1 n2 
D_D2         N661700 N1 D1N6068
D_D3         N661700 n2 D1N6068
.MODEL D1N6068 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=879.77E-9
+ BV=187.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6068
*$


*$
.subckt 1N6067 n1 n2 
D_D2         N661700 N1 D1N6067
D_D3         N661700 n2 D1N6067

.MODEL D1N6067 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=916.73E-9
+ BV=165.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6067
*$

*$
.subckt 1N6066 n1 n2 
D_D2         N661700 N1 D1N6066
D_D3         N661700 n2 D1N6066

.MODEL D1N6066 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=960.81E-9
+ BV=143.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6066
*$

*$
.subckt 1n6065 n1 n2 
D_D2         N661700 N1 D1n6065
D_D3         N661700 n2 D1n6065

.MODEL D1n6065 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=993.15E-9
+ BV=132.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1n6065
*$

*$
.subckt 1N6064 n1 n2 
D_D2         N661700 N1 D1N6064
D_D3         N661700 n2 D1N6064

.MODEL D1N6064 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.0111E-6
+ BV=121.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6064
*$

*$
.subckt 1N6063 n1 n2 
D_D2         N661700 N1 D1N6063
D_D3         N661700 n2 D1N6063

.MODEL D1N6063 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.0469E-6
+ BV=110.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6063
*$

*$
.subckt 1N6062 n1 n2 
D_D2         N661700 N1 D1N6062
D_D3         N661700 n2 D1N6062

.MODEL D1N6062 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.0834E-3
+ BV=100.24
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6062
*$
*$
.subckt 1N6061 n1 n2 
D_D2         N661700 N1 D1N6061
D_D3         N661700 n2 D1N6061

.MODEL D1N6061 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.1201E-6
+ BV=90.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6061
*$

*$
.subckt 1N6060 n1 n2 
D_D2         N661700 N1 D1N6060
D_D3         N661700 n2 D1N6060

.MODEL D1N6060 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.1558E-6
+ BV=82.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6060
*$

*$
.subckt 1N6059 n1 n2 
D_D2         N661700 N1 D1N6059
D_D3         N661700 n2 D1N6059

.MODEL D1N6059 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.1893E-6
+ BV=74.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6059
*$

*$
.subckt 1N6058 n1 n2 
D_D2         N661700 N1 D1N6058
D_D3         N661700 n2 D1N6058

.MODEL D1N6058 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.2437E-6
+ BV=68.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6058
*$

*$
.subckt 1N6057 n1 n2 
D_D2         N661700 N1 D1N6057
D_D3         N661700 n2 D1N6057

.MODEL D1N6057 D
+ IS=10.010E-21
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.2703E-6
+ BV=61.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6057
*$

*$
.subckt 1N6056 n1 n2 
D_D2         N661700 N1 D1N6056
D_D3         N661700 n2 D1N6056

.MODEL D1N6056 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.3097E-6
+ BV=56.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6056
*$

*$
.subckt 1N6055 n1 n2 
D_D2         N661700 N1 D1N6055
D_D3         N661700 n2 D1N6055

.MODEL D1N6055 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.3426E-6
+ BV=51.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6055

*$
*$
.subckt 1N6054 n1 n2 
D_D2         N661700 N1 D1N6054
D_D3         N661700 n2 D1N6054

.MODEL D1N6054 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.3923E-6
+ BV=47.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6054
*$

*$
.subckt 1N6053 n1 n2 
D_D2         N661700 N1 D1N6053
D_D3         N661700 n2 D1N6053

.MODEL D1N6053 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.4348E-6
+ BV=42.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6053
*$


*$
.subckt 1N6052 n1 n2 
D_D2         N661700 N1 D1N6052
D_D3         N661700 n2 D1N6052

.MODEL D1N6052 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.4663E-6
+ BV=39.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6052
*$

*$
.subckt 1N6051 n1 n2 
D_D2         N661700 N1 D1N6051
D_D3         N661700 n2 D1N6051

.MODEL D1N6051 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.5191E-6
+ BV=36.538
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6051
*$
*$
.subckt 1N6050 n1 n2 
D_D2         N661700 N1 D1N6050
D_D3         N661700 n2 D1N6050

.MODEL D1N6050 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.5590E-6
+ BV=33.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6050
*$

*$
.subckt 1N6049 n1 n2 
D_D2         N661700 N1 D1N6049
D_D3         N661700 n2 D1N6049

.MODEL D1N6049 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.6276E-6
+ BV=29.938
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6049
*$

*$
.subckt 1N6048 n1 n2 
D_D2         N661700 N1 D1N6048
D_D3         N661700 n2 D1N6048

.MODEL D1N6048 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.6808E-6
+ BV=26.638
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6048
*$

*$
.subckt 1N6047 n1 n2 
D_D2         N661700 N1 D1N6047
D_D3         N661700 n2 D1N6047

.MODEL D1N6047 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.7417E-6
+ BV=24.438
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6047
*$

*$
.subckt 1N6046 n1 n2 
D_D2         N661700 N1 D1N6046
D_D3         N661700 n2 D1N6046

.MODEL D1N6046 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.7757E-6
+ BV=22.238
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6046
*$

*$
.subckt 1N6045 n1 n2 
D_D2         N661700 N1 D1N6045
D_D3         N661700 n2 D1N6045

.MODEL D1N6045 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.8525E-6
+ BV=20.038
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6045
*$

*$
.subckt 1N6044 n1 n2 
D_D2         N661700 N1 D1N6044
D_D3         N661700 n2 D1N6044

.MODEL D1N6044 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.9447E-6
+ BV=17.738
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6044
*$


*$
.subckt 1N6043 n1 n2 
D_D2         N661700 N1 D1N6043
D_D3         N661700 n2 D1N6043

.MODEL D1N6043 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=1.9984E-6
+ BV=16.738
+ IBV=10
+ TT=5.0000E-9
.ENDS 1N6043
*$



*$
.subckt 1N6042 n1 n2 
D_D2         N661700 N1 D1N6042
D_D3         N661700 n2 D1N6042

.MODEL D1N6042 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=2.0585E-6
+ BV=14.538
+ IBV=10
+ TT=1.0000E-3
.ENDS 1N6042
*$

*$
.subckt 1N6041 n1 n2 
D_D2         N661700 N1 D1N6041
D_D3         N661700 n2 D1N6041

.MODEL D1N6041 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=2.1266E-6
+ BV=13.438
+ IBV=10
+ TT=5.0000E-9
.ENDS
*$
*$
.subckt 1n6040 n1 n2 
D_D2         N661700 N1 D1n6040
D_D3         N661700 n2 D1n6040

.MODEL D1n6040 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=4.3285E-6
+ BV=12.338
+ IBV=10
+ TT=5.0000E-9
.ENDS 1n6040
*$

*$
*$
.subckt 1n6039 n1 n2 
D_D2         N661700 N1 D1n6039
D_D3         N661700 n2 D1n6039
.MODEL D1n6039 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=22.047E-6
+ BV=9.2382
+ IBV=10
+ TT=5.0000E-9
.ENDS 1n6039
*$

*$
.subckt 1n6038 n1 n2 
D_D2         N661700 N1 D1n6038
D_D3         N661700 n2 D1n6038

.MODEL D1n6038 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=91.829E-6
+ BV=8.3337
+ IBV=2.5890
+ TT=5.0000E-9
.ENDS 1n6038
*$

*$
.subckt 1n6037 n1 n2 
D_D2         N661700 N1 D1n6037
D_D3         N661700 n2 D1n6037

.MODEL d1n6037 D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=229.57E-6
+ BV=7.5237
+ IBV=2.5890
+ TT=5.0000E-9
.ENDS 1n6037
*$
*$
.subckt 1n6036 n1 n2 
D_D2         N661700 N1 D1N6036 
D_D3         N661700 n2 D1N6036 
.model D1N6036  D(Is=84.5f N=1 Rs=.1 Ikf=0 Xti=3 Eg=1.11 Cjo=7.287n M=.3333
+               Vj=.75 Fc=.5 Isr=493.3u Nr=2 Bv=7.503 Ibv=11.76m Tt=144.3n)
.ends 1n6036
******************************

